US07994205B2
N,N-dimethyl-1-{1-[(4-methylphenyl)sulfonyl]-2-phenyl-1H-imidazol-4-yl}methanamine 0.5 Oxalate
A mixture of 1-[(4-methylphenyl)sulfonyl]-2-phenyl-1H-imidazole-4-carbaldehyde (300 mg), methylammonium chloride (225 mg), molecular sieves 3A (2.0 g) and ethanol (10 mL) was stirred at 60° C. for 1 hr. The reaction mixture was cooled, sodium borohydride (105 mg) was added at 5-10° C., and the mixture was stirred for 30 min. Saturated aqueous sodium hydrogen carbonate was added at the same temperature, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent:hexane-ethyl acetate=2:3→0:1), and crystallized by adding a solution (10 mL) of anhydrous oxalic acid in ethyl acetate to give the title compound as colorless crystals (yield 106 mg, 29%).

reactant | 1-[(4-methylphenyl)sulfonyl]-2-phenyl-1H-imidazole-4-carbaldehyde | 300 mg | CC1=CC=C(C=C1)S(=O)(=O)N1C(=NC(=C1)C=O)C1=CC=CC=C1 | C17H14N2O3S
reactant | methylammonium chloride | 225 mg | [Cl-].C[NH3+]
reactant | sodium borohydride | 105 mg | [BH4-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | N,N-dimethyl-1-{1-[(4-methylphenyl)sulfonyl]-2-phenyl-1H-imidazol-4-yl}methanamine | yield 106 mg, 29% | CN(CC=1N=C(N(C1)S(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1)C | C19H21N3O2S
